US08748435B2
4-Vinyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (30)
4-Oxo-piperidine-1-carboxylic acid tert-butyl ester (2.5 g, 12.5 mmol) was dissolved in 25 ml of diethylether and cooled to 0° C. A 1M solution of vinylmagnesiumbromide in THF (16.3 ml, 16.31 mmol) was added dropwise at 0° C. After 90 min stirring at 0° C., the reaction mixture was quenched with NH4Cl solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2 SO4 and evaporated. The crude product was further purified by flash chromatography (silicagel, cyclohexane/ethylacetate 4:1).

reactant | 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester | 12.5 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | vinylmagnesiumbromide | C(=C)[Mg]Br
reactant | THF | 16.31 mmol, 16.3 ml | C1CCOC1 | C4H8O
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
product | 4-Vinyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C=C | C12H21NO3
